US05151545
Methyl (6E,8Z)-8-(8,9-Dihydro-6H, 7H-benzocyclohepten-5-ylidene)-5-hydroxy-3-oxo-6-octenoate
By the method of Example 1, (2E,4Z)-4-(8,9-dihydro-6H,7H-benzocyclohepten-5-ylidene)-2-butenal (2.6 g, 12 mmol) was reacted with methyl acetoacetate to form title product, 3.2 g.

reactant | (2E,4Z)-4-(8,9-dihydro-6H,7H-benzocyclohepten-5-ylidene)-2-butenal | 12 mmol, 2.6 g | C1=CC=CC\2=C1CCCC/C2=C/C=C/C=O | C15H16O
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
product | Methyl (6E,8Z)-8-(8,9-Dihydro-6H, 7H-benzocyclohepten-5-ylidene)-5-hydroxy-3-oxo-6-octenoate | C1=CC=CC\2=C1CCCC/C2=C/C=C/C(CC(CC(=O)OC)=O)O | C20H24O4
